US05804601
1,4-Naphthohydroquinone
To 1,4-naphthoquinone (25 g) suspended in ethanol (100 ml) was added a solution (150 ml) of stannous chloride (368 g) in concentrated hydrochloric acid gradually at room temperature. After the evolution of heat had ceased and a homogeneous state was established, the reaction mixture was brought back to room temperature and the resulting crystals were collected by filtration, rinsed with water, and dried to provide the title compound (18.2 g).

reactant | 1,4-naphthoquinone | 25 g | C1(C=CC(C2=CC=CC=C12)=O)=O | C10H6O2
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | hydrochloric acid | Cl | ClH
product | 1,4-Naphthohydroquinone | 18.2 g | C1=CC=C2C(=C1)C(=CC=C2O)O | C10H8O2
